Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamides) / Lisinopril / Reglan
 
Attending: ___.
 
Chief Complaint:
Cough and shortness of breath/Pneumonia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ yo woman with a history of recently diagnosed 
CLL now presenting with pneumonia. Patient initially presented 
to ___ office on ___ with 7 days of worsening chills, SOB, 
cough and sputum production. Was initially treated with 
azythromycin and nebulizers (prednisone + albuterol). As her 
symptoms persisted, and at the urging of her sons, she decided 
to come to ___ ED for further evaluation/treatment of her 
pneumonia.

In the ED, patient's vitals were T:97.5 BP:152/76 HR:66 RR:20 
O2sat: 99% RA. Basic serum chemistries ECG and a repeat CXR were 
obtained. 

On the floor, patient notes mild sore throat, chest congestion 
and wheezing. Mild DOE. Occasional cough (worse at night) with 
clear sputum production. Ongoing chills, but not much different 
from her baseline. Occassional night sweats over past ___ 
months. No dysphagia, sinus pressure, nasal congesiton, URI 
symptoms, bloody/green sputum, palpitations, anginal chest pain, 
N/V/D, myalgias or arthralgias. 45 lbs weight loss over past ___ 
months (most recent weight 165 lb); pt believes weight is stable 
now.

 
Past Medical History:
1. CLL (___) - Initial asymptomatic leukocytosis (18.6) in 
___ and ___ (22, 60% lymphocytes). Immunophenotyping of 
peripheral blood
consistent with CLL (+ for CD5, CD19-dim, CD20 and CD23 and - 
for CD10 and FCM7).  No significant lymphadenopathy on CT 
chest/abdomen. Currently no medical treatment indicated. 
2. Hypertension
3. Hyperlipidemia
4. Cataract surgery
5. CAD s/p CABG in ___
6. Sciatica s/p L4-L5 laminectomy
7. Chelecystitis s/p gallbladder removal (___)
8. Appendicitis s/p appendectomy (___)
9. "gynecologic mass" s/p TAH/BSO (___)
10. Osteoarthritis s/p bilateral total knee replacement.

 
Social History:
___
Family History:
Notable for a mother who died of lung cancer. Father had died of 
an MI.
 
Physical Exam:
Vitals: T: 96.8 BP: 140/68 HR: 82 RR: 18 O2: 96%@RA
I/O: 1530 in/not recorded outs.
GENERAL: Diaphoretic elderly woman; anxious appearing; NAD.
HEENT: PERRL, EOMI, CN II-XII intact, moist oral mucosa w/o 
lesions, no nasal discharge. No flaring.
NECK:  Supple without cervical, axillary, or inguinal 
adenopathy.
CHEST:  transmitted upper airway noises. Scattered rhonchi.
CARDIAC:  RRR nl S1/S2, no M/R/G
ABDOMEN:  Soft, NT/ND, no hepatomegaly or splenomegaly. No 
ascites. Noted scars from previous GI surgeries.
EXTREMITIES:  WWP. No clubbing, cyanosis, or edema. ___ DP/DT 
pulses.
SKIN:  No rashes/petechiae.

 
Pertinent Results:
___ 12:14PM   LACTATE-2.1*
___ 12:13PM   GLUCOSE-154* UREA N-15 CREAT-0.7 SODIUM-138 
POTASSIUM-3.4 CHLORIDE-101 TOTAL CO2-23 ANION GAP-17
___ 12:13PM   estGFR-Using this
___ 12:13PM   ALT(SGPT)-14 AST(SGOT)-27 ALK PHOS-99 TOT 
BILI-0.6
___ 12:13PM   ALBUMIN-3.9 CALCIUM-9.0 PHOSPHATE-1.7*# 
MAGNESIUM-1.8
___ 12:13PM   WBC-13.4* RBC-4.62 HGB-13.1 HCT-37.7 MCV-82 
MCH-28.4 MCHC-34.7 RDW-13.9
___ 12:13PM   NEUTS-66 BANDS-0 ___ MONOS-0 EOS-0 
BASOS-0 ATYPS-3* ___ MYELOS-0
___ 12:13PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:13PM   PLT SMR-NORMAL PLT COUNT-235
___ 12:13PM   ___ PTT-25.8 ___ woman with recent diagnosis of CLL now presented 
with 7+ days of SOB, mild DOE and cough.

PNEUMONIA: DOE/cough/sputum production for 10 days with CXR 
finding of lower lobe infiltrate that had resolved over the few 
days prior to admission.  While this resolution would be most 
consistent with an aspiration pneumonitis, her persistent 
symptoms merited treatment for pneumonia.  Patient's CURB-65 
score was ___ (only positive being her age ___ yo) and PSI was 
risk class I - overall mortality <0.1%.  Not from a nursing home 
and rare hospital contact, consistent with community-acquired 
pneumonia.  She was continued on her current course of 
azithromycin and cefpodoxime was added.  She was not observed to 
have any evidence of aspiration with eating or thin liquids.

CHRONIC LYMPHOCYTIC LEUKEMIA: Stage 0 disease with some 
constitutional signs - night sweats, chills, 45 lb weight loss. 
No lymphadenopathy noted on exam or recent CT scans of 
pelvis/abdomen. 
- She will follow up with her primary oncologist as an 
outpatient

HYPERTENSION/HYPERGLYCEMIA:  Mild hyperglycemia in the setting 
of prednisone use and infection.  She previously had been 
diagnosed with diabetes, but was never on treatment.  HbA1c was 
6.3%.
- would check fasting blood sugars as outpatient once totally 
off steroids

PSYCH:  Patient has some anxiety in the setting of new cancer 
diagnosis.  A social work consult re: patient/family education 
and coping strategies was obtained. Pt may benefit from 
outpatient social work/psychiatric assistance.
-Patient does not want to be on benzodiazepines at this time.
 
Medications on Admission:
AZITHROMYCIN - 250 mg Tablet - 1 tablet QD for pneumonia for 5 
days
ALBUTEROL - 90 mcg - 2 puffs Q4H PRN SOB/dyspnea
ALBUTEROL SULFATE - 90 mcg HFA - 2 Puffs(s) Q4H PRN SOB/dyspnea
PREDNISONE - 20 mg Tablet - 1 Tablet(s) QD for bronchitis
.
AMLODIPINE - 5 mg Tablet - ONE Tablet QD
ATENOLOL - 50 mg Tablet - 1 Tablet(s) QD 
SIMVASTATIN - 40 mg Tablet - 1 Tablet(s) QD for cholesterol
NITROQUICK - 0.4MG Tablet, Sublingual - TAKE AS DIRECTED 
ASPIRIN - 325 mg Tablet - Tablet(s) by mouth QD
.
CALTRATE-600 PLUS - 600MG-200 - 1 tablet BID for osteopenia
OMEPRAZOLE - 20 mg - 2 Capsule(s) BID for GERD
.
CITALOPRAM - 10 mg Tablet - 1 Tablet QD PRN anxiety
HYDROMORPHONE - 2 mg Tablet - 1 Tablet(s) Q4H PRN pain
LORAZEPAM [ATIVAN] - 1 mg Tablet - 1 Tablet(s) PRN anxiety
MECLIZINE HCL - 25MG Tablet - PRN vertigo
 
Discharge Medications:
1. Cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 5 days.
Disp:*20 Tablet(s)* Refills:*0*
2. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 3 days: Please complete the antibiotics you 
already have.  
3. Proventil HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1)  Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
4. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. NitroQuick 0.4 mg Tablet, Sublingual Sig: One (1)  Sublingual 
as directed as needed for chest pain.  
9. Calcium Citrate + D 315-200 mg-unit Tablet Sig: Two (2) 
Tablet PO twice a day.  
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
11. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Community acquired pneumonia
Chronic lymphocytic leukemia
Hyperglycemia
Coronary Artery Disease

 
Discharge Condition:
Stable.  Ambulating on room air.

 
Discharge Instructions:
You were admitted with a pneumonia.  You were treated with 
antibiotics and had an x-ray showing improvement in your 
pneumonia.  You should continue to take your antibiotics.

If you have worsening shortness of breath, chest pain, or other 
concerning symptomts, please seek medical attention.

You should follow up with your PCP and with your oncologist.
 
Followup Instructions:
___